US05691364
To 3-[(6-(3-cyanophenyl)amino-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzonitrile (0.10 g, 0.28 mmol) in acetonitrile (10 mL) was added iodomethane (0.20 g, 1.4 mmol) and sodium hydride (0.055 g, 1.4 mmol). After stirring for 18 hours the reaction was partitioned with water and ethyl acetate. The organic layer was separated, dried (Na2SO4), and the solvent was removed in vacuo. Chromatography of the residue on silica gel with ethyl acetate/hexane (1/3) as eluent gave 3-[(6-(3-cyanophenyl)methylamino-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzonitrile; NMR (CDCl3) 7.4 (m,5), 7.25 (m,1), 7.1 (m,2), 3.25 (s,3), 2.3 (s,3) ppm.

reactant | 3-[(6-(3-cyanophenyl)amino-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzonitrile | 0.28 mmol, 0.10 g | C(#N)C=1C=C(C=CC1)NC1=C(C(=C(C(=N1)OC=1C=C(C#N)C=CC1)F)C)F | C20H12F2N4O
reactant | iodomethane | 1.4 mmol, 0.20 g | IC | CH3I
reactant | sodium hydride | 1.4 mmol, 0.055 g | [H-].[Na+]
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-[(6-(3-cyanophenyl)methylamino-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzonitrile | C(#N)C=1C=C(C=CC1)CNC1=C(C(=C(C(=N1)OC=1C=C(C#N)C=CC1)F)C)F | C21H14F2N4O
